US07951828B1
N-Carbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-methyl benzoic acid amide (Compound of the present invention No. 4-003)
A solution of 0.40 g of N-chloroacetyl-N′-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl]-N′-methyl urea synthesized in Synthetic Example 27 and 0.04 g of triethylamine in 4 mL of methanol was stirred at room temperature for 2 hours. After the completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (gradient of 1:4 to 4:1) to obtain 0.31 g of the aimed product as white crystal.

reactant | N-chloroacetyl-N′-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl]-N′-methyl urea | 0.40 g | ClCC(=O)NC(=O)N(C)C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H17Cl3F3N3O4
reactant | triethylamine | 0.04 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 4 mL | CO | CH4O
product | N-Carbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-methyl benzoic acid amide | 0.31 g | C(N)(=O)N(C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)C | C20H16Cl2F3N3O3
